US04657922
N-3-Chlorophenyl-N'-(4,5-dihydro-5-methoxy-1-methyl-4-oxo-1H-imidazol-2-yl)urea (Formula (I): R1 =OCH3 ; R2 =CH3 ; Ar=3-chlorophenyl)
A solution of 10.00 g (0.031 mol) of N-(5-acetyloxy-4,5-dihydro-1-methyl-4-oxo-1H-imidazol-2-yl)-N'-(3-chlorophenyl) urea. The compound from Example 1a, in 200 ml of anhydrous ether was treated with anhydrous HCl until no more precipitation occurred. The solid was filtered, with anhydrous ether and dissolved in 200 ml of warm (70° C.) methanol. The reaction mixture was cooled to room temperature and after 1 hr filtered. Concentration of the filtrate gave additional material which was combined with the first crop, dissolved in THF/water and extracted with ether. The combined ether layers were washed with water to pH 5-6, dried (MgSO4) and evaporated in vacuo. Crystallization of the residue from methanol and finally methanol/pentane (5:1) afforded 3.22 g (37%) of the title compound, mp 147°-149° C.

reactant | N-(5-acetyloxy-4,5-dihydro-1-methyl-4-oxo-1H-imidazol-2-yl)-N'-(3-chlorophenyl) urea | 0.031 mol, 10.00 g | C(C)(=O)OC1C(N=C(N1C)NC(=O)NC1=CC(=CC=C1)Cl)=O | C13H13ClN4O4
reactant | HCl | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | THF water | C1CCOC1.O
product | N-3-Chlorophenyl-N'-(4,5-dihydro-5-methoxy-1-methyl-4-oxo-1H-imidazol-2-yl)urea | 3.22 g, 37% | ClC=1C=C(C=CC1)NC(=O)NC=1N(C(C(N1)=O)OC)C | C12H13ClN4O3
